US04010179
In accordance with the procedure described in Example 1, treatment of p-(fluoromethylthio)aniline with triethylorthoformate and sodium azide furnishes the 1-[p-(fluoromethylthio)phenyl]-1H-tetrazole.

reactant | p-(fluoromethylthio)aniline | FCSC1=CC=C(N)C=C1 | C7H8FNS
reactant | triethylorthoformate | C(C)OC(OCC)OCC | C7H16O3
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | 1-[p-(fluoromethylthio)phenyl]-1H-tetrazole | FCSC1=CC=C(C=C1)N1N=NN=C1 | C8H7FN4S
